US05220042
484 Milligrams of 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl 3-[2,5-dimethoxy-3,6bis(methoxymethoxy)phenyl]propyl ether was dissolved in a mixed solvent of 5 ml of tetrahydrofuran with 5 ml of isopropanol, to this solution was added 1.0 ml of solution prepared by dissolving 10% (by weight) of hydrogen chloride in a mixture of tetrahydrofuran with isopropanol (1:1), and the whole mixture was stirred at room temperature for 14 hours. The reaction mixture was concentrated, and benzene was added then further treated under reduced pressure to concentrated. The residue obtained was dissolved in 10 ml of methanol, and a catalytical amount of sodium hydrogen carbonate was added thereto and oxygen gas was blown thereinto. The precipitated crystals were dissolved by adding dichloromethane and filtered. The filtrate was concentrated and the residue obtained was purified by means of a silica gel column chromatography, (diameter 2 cm×length 5 cm, developping solvent: 10% ethyl acetate-dichloromethane solution, adsorbent: "Wakogel C-200", to obtain a crude product, then recrystallized from ethanol to obtain 243 mg of 2-(3,6-dimethoxy1,4-benzoquinon-2-yl)ethyl 3-(3,6-dimethoxy-1,4-benzoquinon2-yl)propyl ether. Yellow needles crystals.

reactant | 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl 3-[2,5-dimethoxy-3,6bis(methoxymethoxy)phenyl]propyl ether | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCOCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C29H44O13
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | oxygen | O=O | O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3,6-dimethoxy1,4-benzoquinon-2-yl)ethyl 3-(3,6-dimethoxy-1,4-benzoquinon2-yl)propyl ether | 243 mg | COC1=C(C(C(=CC1=O)OC)=O)CCCOCCC=1C(C(=CC(C1OC)=O)OC)=O | C21H24O9
